US06140512
Under an argon atmosphere, anhydrous potassium carbonate (130 mg, 0.94 mmol) was added to a solution of (6S)-(-)-methyl 6,8-bis(4-nitrobenzoxy)octanoate (461 mg, 0.94 mmol) in methanol (9.4 ml). The mixture was stirred at room temperature for 1 h and quenched with a saturated ammonium chloride solution (50 ml). The mixture was extracted with chloroform (3×50 ml) and the combined organic extracts were washed with brine (50 ml). The organic phase was dried over magnesium sulphate and the solvent was evaporated under reduced pressure to give the crude product which was purified using flash column chromatography with ethyl acetate to give (6S)-(-)-methyl 6,8-dihydroxyoctanoate (147 mg, 82% yield) as a colourless oil. Rf 0.30 (ethyl acetate, 100%).

reactant | potassium carbonate | 0.94 mmol, 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (6S)-(-)-methyl 6,8-bis(4-nitrobenzoxy)octanoate | 0.94 mmol, 461 mg | [N+](=O)([O-])C1=CC=C(CO[C@@H](CCCCC(=O)OC)CCOCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C23H28N2O8
solvent | methanol | 9.4 ml | CO | CH4O
product | (6S)-(-)-methyl 6,8-dihydroxyoctanoate | 147 mg, 82% yield | O[C@@H](CCCCC(=O)OC)CCO | C9H18O4
